US08303944B2
Bromine (1.3 mL, 25.2 mmol) was added to a solution of Example J2, 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-one (7.7 g, 25.7 mmol) in diethyl ether (60 mL) and 1,4-dioxane (40 mL) and the solution stirred 30 min at 24° C. (Until TLC indicated reaction complete). The solvent was removed by rotory evaporation and the residue was taken up in acetonitrile (350 mL). (S)—N-Boc-Proline (5.54 g, 25.7 mmol) was added followed by dropwise addition of Hunig's base (8.5 mL, 51.5 mmol) and the reaction was stirred 6 hours before being concentrated. The crude product was taken up in CH2Cl2 and charged to a 40 (M) Biotage silica gel cartridge. Gradient elution 15-100% B over 1 L (A=hexanes; B=ethyl acetate) gave Example J3, 2-(1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)-1-oxopropan-2-yl) 1-tert-butyl pyrrolidine-1,2-dicarboxylate 13 g (100%).). RT=2.2 minutes (condition 1); LCMS: Anal. C23H30BrNO7 Calcd. 534. found: 534 (M+Na)+.

reactant | Bromine | 25.2 mmol, 1.3 mL | BrBr | Br2
reactant | 1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)propan-1-one | 25.7 mmol, 7.7 g | BrC1=CC=C(C=C1)C(CCC1OCCCO1)=O | C13H15BrO3
reactant | (S)—N-Boc-Proline | 25.7 mmol, 5.54 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | Hunig's base | 51.5 mmol, 8.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2-(1-(4-bromophenyl)-3-(1,3-dioxan-2-yl)-1-oxopropan-2-yl) 1-tert-butyl pyrrolidine-1,2-dicarboxylate | 13 g, 100% | N1(C(CCC1)C(=O)OC(C(=O)C1=CC=C(C=C1)Br)CC1OCCCO1)C(=O)OC(C)(C)C | C23H30BrNO7
